datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5](=[C:6]([C:7](=[C:8]([H:22])[H:23])[H:21])[H:20])[H:19])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10]>>[C:0]1([H:9])([H:10])[C:1]([H:11])([H:12])[C:2]([H:13])([H:14])[C:3]([H:15])([H:16])[C:4]([H:17])([H:18])[C:5]1([C:6]([C:7](=[C:8]([H:22])[H:23])[H:21])[H:20])[H:19],23.263
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([H:5])[H:6])[H:4].[C:10](=[C:11]([C:12]=[S:13])[H:16])([H:14])[H:15]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[H:6])[H:4].[H:5][C:12]([C:11](=[C:10]([H:14])[H:15])[H:16])=[S:13],55.6472
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:11])([H:12])[H:13])[C:5](=[C:6]([H:15])[H:16])[H:14])[H:10])[H:9])([H:7])[H:8].[C:17](=[C:18][C:19]([H:22])([H:23])[H:24])([H:20])[H:21]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])[C:5](=[C:6]([H:15])[H:16])[H:14])([H:10])[C:18](=[C:17]([H:20])[H:21])[C:19]([H:22])([H:23])[H:24])[H:9])([H:7])[H:8],-2.092
[C:0]([C:1]([O:2][H:8])([H:6])[H:7])([H:3])([H:4])[H:5].[O:9][O:10]>>[C:0]([C:1]([O:2][H:8])[H:7])([H:3])([H:4])[H:5].[H:6][O:9][O:10],209.8276
[C:3]([H:4])[H:5].[O:0]([H:1])[H:2]>>[H:1][C:3]([H:4])[H:5].[O:0][H:2],0.0
[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])[H:6])([H:3])([H:4])[H:5].[C:10]([C:11]([C:12]([H:17])([H:18])[H:19])[C:13]([H:20])([H:21])[H:22])([H:14])([H:15])[H:16]>>[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])([H:6])[C:11]([C:10]([H:14])([H:15])[H:16])([C:12]([H:17])([H:18])[H:19])[C:13]([H:20])([H:21])[H:22])([H:3])([H:4])[H:5],0.0
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[H:7])[H:6])([H:4])[H:5].[C:11](=[C:12]([C:13]([C:14]([H:19])([H:20])[H:21])[H:18])[H:17])([H:15])[H:16]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([H:7])[H:19])[H:6])([H:4])[H:5].[C:11](=[C:12]([C:13](=[C:14]([H:20])[H:21])[H:18])[H:17])([H:15])[H:16],0.0
[C:0](#[C:1][C:2]([H:4])[H:5])[H:3].[C:6](=[C:7]([C:8]([C:9]([H:20])([H:21])[H:22])=[C:10]([c:11]1[c:12]([H:24])[c:13]([H:25])[c:14]([H:26])[c:15]([H:27])[c:16]1[H:28])[H:23])[H:19])([H:17])[H:18]>>[C:0](#[C:1][C:2]([H:4])([H:5])[C:10]([C:8]([C:7](=[C:6]([H:17])[H:18])[H:19])[C:9]([H:20])([H:21])[H:22])([c:11]1[c:12]([H:24])[c:13]([H:25])[c:14]([H:26])[c:15]([H:27])[c:16]1[H:28])[H:23])[H:3],36.5263
[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])([C:4]#[C:5][H:11])[H:7])[H:6].[C:12](=[C:13]([C:14]([C:15]([H:21])([H:22])[H:23])[C:16](=[C:17]([H:25])[H:26])[H:24])[H:20])([H:18])[H:19]>>[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])[C:4]#[C:5][H:11])[H:6].[H:7][C:14]([C:13](=[C:12]([H:18])[H:19])[H:20])([C:15]([H:21])([H:22])[H:23])[C:16](=[C:17]([H:25])[H:26])[H:24],16.3176
[O:0]=[C:1]1[C:2]([H:8])=[C:3]([H:9])[C:4](=[O:5])[C:6]([H:10])=[C:7]1[H:11].[O:12][H:13]>>[H:8][O:12][H:13].[O:0]=[C:1]1[C:2]=[C:3]([H:9])[C:4](=[O:5])[C:6]([H:10])=[C:7]1[H:11],16.736
[C:0](=[O:1])([H:2])[H:3].[C:4]([C:5]([C:6]([H:12])([H:13])[H:14])[C:7](=[O:8])[H:15])([H:9])([H:10])[H:11]>>[C:0](=[O:1])[H:3].[H:2][C:5]([C:4]([H:9])([H:10])[H:11])([C:6]([H:12])([H:13])[H:14])[C:7](=[O:8])[H:15],76.10696
[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])=[C:4]([C:5](=[C:6]([H:13])[H:14])[H:12])[H:11])[H:7].[C:15]([C:16]([C:17]([H:22])([H:23])[H:24])[C:18]([H:25])([H:26])[H:27])([H:19])([H:20])[H:21]>>[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])([C:4]([C:5](=[C:6]([H:13])[H:14])[H:12])[H:11])[C:16]([C:15]([H:19])([H:20])[H:21])([C:17]([H:22])([H:23])[H:24])[C:18]([H:25])([H:26])[H:27])[H:7],6.81992
[C:0]([C:1]([C:2]([H:11])([H:12])[H:13])([C:3]([C:4]([O:5][O:6])([H:16])[H:17])([H:14])[H:15])[H:10])([H:7])([H:8])[H:9]>>[C:0]([C:1]([C:2]([H:11])([H:12])[H:13])[C:3]([C:4]([O:5][O:6][H:10])([H:16])[H:17])([H:14])[H:15])([H:7])([H:8])[H:9],64.3081
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([c:6]1[c:7]([H:24])[c:8]([H:25])[c:9]([H:26])[c:10]([H:27])[c:11]1[H:28])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])[H:17])([H:15])[H:16])([H:12])([H:13])[H:14]>>[C:0]([C:1]([C:2]1([H:17])[C:3]([H:18])([H:19])[C:4]([H:20])([H:21])[C:5]([H:22])([H:23])[C:6]2=[C:7]([H:24])[C:8]([H:25])=[C:9]([H:26])[C:10]([H:27])[C:11]12[H:28])([H:15])[H:16])([H:12])([H:13])[H:14],27.5998
[C:0]1([H:10])=[C:1]([H:11])[C:2]([H:12])([H:13])[C:3]2[C:4]([H:14])([H:15])[C:5]([H:16])=[C:6]([H:17])[C:7]2([H:18])[C:8]([H:19])=[C:9]1[H:20]>>[C:0]1([H:10])=[C:1]([H:11])[C:2]([H:12])([H:13])[C:3]2([H:18])[C:4]([H:14])([H:15])[C:5]([H:16])=[C:6]([H:17])[C:7]2[C:8]([H:19])=[C:9]1[H:20],93.7216
[C:0]([C:1]([C:2]([O:3][O:4])([H:10])[H:11])([H:8])[H:9])([H:5])([H:6])[H:7].[O:12][O:13][H:14]>>[C:0]([C:1]([C:2]([O:3][O:4][H:14])([H:10])[H:11])([H:8])[H:9])([H:5])([H:6])[H:7].[O:12][O:13],-13.7026
[C:0](#[C:1][C:2]#[C:3][H:5])[H:4].[C:6]#[C:7][H:8]>>[C:0](=[C:1][C:2]#[C:3][H:5])([H:4])[C:6]#[C:7][H:8],29.7064
[C:0](=[C:1]([C:2](=[S:3])[H:7])[H:6])([H:4])[H:5].[C:8]([C:9]([C:10](=[S:11])[H:16])[H:15])([H:12])([H:13])[H:14]>>[C:0](=[C:1][C:2](=[S:3])[H:7])([H:4])[H:5].[H:6][C:9]([C:8]([H:12])([H:13])[H:14])([C:10](=[S:11])[H:16])[H:15],119.244
